US06531605B1
reaction of 2-chloro-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulfonamide with 4-methoxycarbonylphenylboronic acid (or an anhydride or ester thereof) in the presence of a source of fluoride ion and under aqueous conditions to give N-(isobutoxycarbonyl)-2-(4-methoxycarbonylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl) pyridine-3-sulfonamide;

reactant | 2-chloro-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulfonamide | ClC1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C16H19ClN4O5S
reactant | 4-methoxycarbonylphenylboronic acid | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
product | N-(isobutoxycarbonyl)-2-(4-methoxycarbonylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl) pyridine-3-sulfonamide | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)C(=O)OC)C1=NC=C(N=C1OC)C | C24H26N4O7S
